US06462198B1
N-(3-Methyl-[1,2,4]oxadiazol-5-yl)-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 215° C. and MS: m/e=293 (M+) was prepared in accordance with the general method of example 44a from 3-methyl-[1,2,4]oxadiazol-5-ylamine (Helv. Chim. Acta, 49(1966), 1430-1432) and 2,2-diphenylacetic acid chloride.

reactant | 3-methyl-[1,2,4]oxadiazol-5-ylamine | CC1=NOC(=N1)N | C3H5N3O
reactant | 2,2-diphenylacetic acid chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | N-(3-Methyl-[1,2,4]oxadiazol-5-yl)-2,2-diphenyl-acetamide | CC1=NOC(=N1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H15N3O2
